US07723333B2
tert-Butyl [2-(4-cyanophenyl)ethyl]carbamate
tert-Butyl [2-(4-bromophenyl)ethyl]carbamate (0.52 g, 1.73 mmol) was dissolved in dry DMF (17 mL) under nitrogen atmosphere. Zinc cyanide (0.41 g, 3.46 mmol) and tetrakis(triphenylphosphine)palladium (0.16 g, 0.14 mmol) was added. The reaction mixture was heated in a microwave reactor at 150° C. for 20 mins. The procedure was repeated two more times with equal amount of starting material and the resulting three mixtures were combined. The mixture was diluted with EtOAc, washed with saturated aqueous NaHCO3 and water, dried with Na2SO4, filtered and evaporated. The crude product was purified using Biotage Horizon HPFC system (40+M column, isocratic run DCM/MeOH (99.5:0.5, 960 mL), gradient run DCM/MeOH (99.5:0.5-92:8, 240 mL), isocratic run DCM/MeOH (92:8, 720 mL)) affording the title compound (1.14 g, 88.9%). 1H NMR (500 MHz, CDCl3): δ 1.44 (s, 9H), 2.88 (t, 2H), 3.40 (q, 2H), 4.58 (bs, 1H), 7.32 (d, 2H), 7.61 (d, 2H); Mass Spectrum: M+H+ 247.

reactant | tert-Butyl [2-(4-bromophenyl)ethyl]carbamate | 1.73 mmol, 0.52 g | BrC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C13H18BrNO2
reactant | DMF | 17 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zinc cyanide | 3.46 mmol, 0.41 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 mmol, 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl [2-(4-cyanophenyl)ethyl]carbamate | 1.14 g, 88.9% | C(#N)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C14H18N2O2
